* C:\Users\Jason\Downloads\Real\Real\Transients\OP_V-Sine_V_DC_R+(R__C__L)+R.asc
V1 N003 0 5
V2 N001 N003 SINE(0 5 10)
R1 N002 N001 1
R2 N005 0 1
R3 N005 N002 1
C1 N002 N004 1
L1 N002 N004 1
.op
.backanno
.end
