* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\OP_V-Sine_V_DC_R+(R__C__L)+R.asc
V1 a 0 5
V2 b a SINE(0 5 1k)
R1 c b 1
R2 d 0 1
R3 d c 1
C1 c d 1
L1 c d 1
.tran 10m
.backanno
.end
